US05278316
Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[1-(1H-indol-3-ylmethyl)-1-methyl-2-[[2-(1-methyl-1H-pyrrol-2-yl)ethyl]amino]-2-oxoethyl]carbamate
To a solution of 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan (0.401 g, 1.01 mmol) in dry ethyl acetate (4 mL) and N,N-dimethylformamide (4 mL) under nitrogen atmosphere was added 1-hydroxybenzotriazole (0.139 g, 1.03 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.199 g, 1.40 mmol). This mixture was stirred 2 hours and 0.16 g (1.3 mmole) of 2-(2-aminoethyl)-1-methylpyrrole was added. After stirring an additional 18 hours, the resulting mixture was diluted with ethyl acetate (20 mL), and washed with aqueous 1N citric acid, saturated aqueous sodium bicarbonate, and brine solutions. The organic phase was dried over MgSO4 and purified by flash chromatography (SiO2, 4×20 cm, 230-400 mesh, 67% ethyl acetate/hexane eluant). Concentration followed by drying under vacuum for 48 hours at 60° C. provided 0.301 g (59%) at product; 1H NMR (CDCl3) δ 1.49-1.60 (2H, m), 1.56 (3H, s), 1.70-2.00 (12H, m), 2.61 (2H, t, J 7 Hz), 3.23-3.55 (4H, m), 3.50 (3H, s), 4.82 (1H, br s), 5.20 (1H, br s), 5.76 (1H, br s), 6.00 (1H, t, J 3Hz), 6.34 (1H, br s), 6.53 (1H, br s), 6.97 (1H, br s), 7.09-7.19 (2H, m), 7.36 (1H, d, J 8 Hz), 7.59 (1H, d, J 8 Hz), 8.16 (1H, br s).

reactant | 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan | 1.01 mmol, 0.401 g | C12C(C3CC(CC(C1)C3)C2)OC(=O)NC(CC2=CNC3=CC=CC=C23)(C(=O)O)C | C23H28N2O4
reactant | 1-hydroxybenzotriazole | 1.03 mmol, 0.139 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.40 mmol, 0.199 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 2-(2-aminoethyl)-1-methylpyrrole | 1.3 mmole, 0.16 g | NCCC=1N(C=CC1)C | C7H12N2
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[1-(1H-indol-3-ylmethyl)-1-methyl-2-[[2-(1-methyl-1H-pyrrol-2-yl)ethyl]amino]-2-oxoethyl]carbamate | N1C=C(C2=CC=CC=C12)CC(C(=O)NCCC=1N(C=CC1)C)(C)NC(OC1C2CC3CC(CC1C3)C2)=O | C30H38N4O3
